US04775670
(trans)-3-Amino-4-ethyl-2-oxo-1-azetidinesulfonic acid
(trans)-3-t-Butoxycarbonylamino-4-ethyl-2-oxo-1-azetidinesulfonic acid, tetrabutylammonium salt (6.75 g) in 40 ml of 98% formic acid is stirred for 3 hours at ambient temperature. Dichloromethane (60 ml) is added and the mixture is refrigerated for about 16 hours. The resulting precipitate is separated by filtration and then dried in vacuo to yield 0.85 g of the title compound, melting point 185° C., dec.

reactant | (trans)-3-t-Butoxycarbonylamino-4-ethyl-2-oxo-1-azetidinesulfonic acid, tetrabutylammonium salt | 6.75 g | C(CCC)[N+](CCCC)(CCCC)CCCC.C(C)(C)(C)OC(=O)N[C@@H]1C(N([C@H]1CC)S(=O)(=O)[O-])=O
reactant | Dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | formic acid | 40 ml | C(=O)O | CH2O2
product | (trans)-3-Amino-4-ethyl-2-oxo-1-azetidinesulfonic acid | 0.85 g | N[C@@H]1C(N([C@H]1CC)S(=O)(=O)O)=O | C5H10N2O4S
